US06075036
1-Ethyl-6-methoxy-2-(4-methoxyphenyl)pyrrolo[2,1,5-cd]indolizine
A mixture of 4-ethyl-6-methoxy-3-(4-methoxyphenyl)pyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylic acid (1.75 g, 4.45 mmol), copper powder (0.4 g), and 90 ml of freshly purified quinoline was heated to 170° C. for eight hours in a nitrogen atmosphere. The copper catalyst was filtered off and the filtrate acidified with 6M hydrochloric acid and extracted with ether. The washed and dried (magnesium sulfate) extract was evaporated and the residue triturated with petroleum ether (40-60). The precipitate was filtered off and dried to afford 1.05 g (77%) of the title compound. M.p. 109-11° C. 1H-NMR (DMSO-d6, 200 MHz) δ: 1.38 (t, 3H), 3.18 (q, 2H), 3.85 (s, 3H), 4.02 (s, 3H), 7.12 (d, 1H), 7.14 (d, 2H), 7.60 (d, 1H), 7.70-7.80 (m, 4H). (Compound 3).

reactant | 4-ethyl-6-methoxy-3-(4-methoxyphenyl)pyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylic acid | 4.45 mmol, 1.75 g | C(C)C1=C(C2=C(C(=C3C=C(C=C1N23)OC)C(=O)O)C(=O)O)C2=CC=C(C=C2)OC | C22H19NO6
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper | 0.4 g | [Cu] | Cu
product | 1-Ethyl-6-methoxy-2-(4-methoxyphenyl)pyrrolo[2,1,5-cd]indolizine | 1.05 g, 77% | C(C)C1=C(C=2N3C(C=C(C=C13)OC)=CC2)C2=CC=C(C=C2)OC | C20H19NO2
